US07700628B2
Methyl 2-(3-tert-butoxycarbonylaminopropoxy)-4-methoxybenzoate (18.61 g, 54.8 mmol) was suspended in 3:1 tetrahydrofuran:water (100 mL), then solid LiOH monohydrate (5.06 g, 121 mmol) was added and the mixture was stirred at 50° C. for 24 hours. The mixture was diluted with water (350 mL) and washed with diethyl ether (2×250 mL). The aqueous layer was acidified to pH 1-2 with 1 N sodium bisulfate and the resulting slurry was extracted with EtOAc (2×300 mL). The combined EtOAc layers were washed with brine, dried, then concentrated in vacuo to give a solid white mass. Recrystallization from EtOAc provided 2-(3-tert-butoxycarbonylaminopropoxy)-4-methoxybenzoic acid as white needles (15.52 g, 87%).

reactant | Methyl 2-(3-tert-butoxycarbonylaminopropoxy)-4-methoxybenzoate | 54.8 mmol, 18.61 g | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)OC)C=CC(=C1)OC | C17H25NO6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 350 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-(3-tert-butoxycarbonylaminopropoxy)-4-methoxybenzoic acid | 15.52 g, 87% | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)O)C=CC(=C1)OC | C16H23NO6
